2126-04-14 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   History obtained from Patient
   Allergies:
   History obtained from PatientMercury
   Ammoniated
   Unknown;
   Shellfish
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2126-4-14**] 06:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-4-14**] 12:35 AM
   Famotidine (Pepcid) - [**2126-4-14**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-4-14**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 89 (83 - 117) bpm
   BP: 118/61(74) {82/45(52) - 165/84(97)} mmHg
   RR: 17 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (6 - 11)mmHg
   Total In:
                                                                  1,460 mL
                                                                    320 mL
   PO:
                                                                    670 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    790 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                    590 mL
   Urine:
                                                                  3,275 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,815 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   10.0 g/dL
   111 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   13 mg/dL
   108 mEq/L
   136 mEq/L
   29.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2126-4-13**]  04:06 AM
                             [**2126-4-13**]  03:08 PM
                             [**2126-4-14**]  03:38 AM
   WBC
   10.7
   9.3
   Hct
   29.9
   30.1
   29.3
   Plt
   234
   224
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   111
   141
   111
   Other labs: PT / PTT / INR:15.2/33.7/1.3, CK / CKMB /
   Troponin-T:112/4/<0.01, Differential-Neuts:80.4 %, Lymph:15.7 %,
   Mono:1.5 %, Eos:2.4 %, Lactic Acid:1.3 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RASH
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   [**Age over 90 **]F with history of refractory C.diff recently off PO vancomycin; admit
   with fever and hypotension, likely septic shock.
   .
   # Hypotension.  With fever, leukocytosis; most likely represents septic
   shock, as has been refractory to adequate fluid resuscitation (5L).
   Possible infectious sources include pneumonia (infiltrate on CXR),
   C.diff (given strong history though benign current exam),
   bacteremia/endocarditis (no known risk factors), urosepsis (though UA
   benign).  Other possible causes or contributors to hypotension include
   cardiogenic (ACS or CHF), PE, though less likely in setting of other
   findings.
   - CVL in place; goal CVP 8-12, bolus prn.
   - If continues to be hypotensive despite adequate CVP, will start
   norepinephrine, goal MAP > 60-65.  A line placement if persistently
   hypotensive.
   - Send central venous sat off line.
   - Broad spectrum abx for coverage of CAP, gram positives, gram
   negatives, C.diff - vanco/cefepime/PO vanc/levoflox.  Does not clearly
   have pseudomonal risk factors; consider change from cefepime to
   ceftriaxone.
   - Send cardiac enzymes, though if positive likely reflects demand
   picture.
   - Consider sending cortisol/stim (mainly prognostic value).
   - Consider APC if meets APACHE criteria.
   .
   # Pneumonia - CAP vs. HCAP.  Also consider aspiration.
   - Abx as above.
   - Management of sepsis as above.
   - Check legionella.  Sputum culture.
   .
   # Fever/leukocytosis.  Likely infectious as above.  WBCs concerning for
   recurrence of C.diff as well.
   - f/u urine and blood cultures.
   - send c.diff; if positive or develops abdominal symptoms consider
   further abdominal imaging.
   - management of sepsis as above; broad coverage abx.
   - C.diff coverage with vanco while on broad spectrums.
   .
   # ARF.  Mild renal impairment - volume depletion/hypotension most
   likely.  At this point prerenal vs. ATN.
   - Foley to gravity, monitor I/O.
   - s/p 5 L hydration as above.
   - Avoid hypotension and nephrotoxins.
   .
   # Hypoxia.  With concern for pneumonia as above.  Also s/p 5 L IVFs,
   though no cardiac history.
   - Treatment of pneumonia.
   - Wean O2 if tolerated.
   - Consider Aline placement.
   .
   # Dementia.  Mild.
   -          Family desires continuation of remeron and donepezil; okay
   for now.
   # Heart murmur.  No prior TTEs in our system. ?AS murmur.
   - will check TTE, eval for valvular disease, rule out vegetations.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-4-13**] 12:00 AM
   18 Gauge - [**2126-4-13**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: